### PR TITLE
[Merged by Bors] - feat: port Order.Partition.Equipartition

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Partition/Equipartition.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+      ∀ a : Finset α,
+        a ∈ P.parts → a.card = s.card / P.parts.card ∨ a.card = s.card / P.parts.card + 1 :=
+  by simp_rw [IsEquipartition, Finset.equitableOn_iff, P.sum_card_parts]
+#align finpartition.is_equipartition_iff_card_parts_eq_average
+    Finpartition.isEquipartition_iff_card_parts_eq_average
+
+variable {P}
+
+theorem Set.Subsingleton.IsEquipartition (h : (P.parts : Set (Finset α)).Subsingleton) :
+    P.IsEquipartition :=
```
Comment (dupuisf) [inline Mathlib/Order/Partition/Equipartition.lean:48]:
```suggestion
theorem Set.Subsingleton.isEquipartition (h : (P.parts : Set (Finset α)).Subsingleton) :
    P.IsEquipartition :=
```

File: Mathlib/Order/Partition/Equipartition.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
...
+#align finpartition.bot_is_equipartition Finpartition.botIsEquipartition
+
+theorem topIsEquipartition [Decidable (s = ⊥)] : (⊤ : Finpartition s).IsEquipartition :=
+  Set.Subsingleton.IsEquipartition (parts_top_subsingleton _)
+#align finpartition.top_is_equipartition Finpartition.topIsEquipartition
+
+theorem indiscreteIsEquipartition {hs : s ≠ ∅} : (indiscrete hs).IsEquipartition := by
+  rw [IsEquipartition, indiscrete_parts, coe_singleton]
+  exact Set.equitableOn_singleton s _
+#align finpartition.indiscrete_is_equipartition Finpartition.indiscreteIsEquipartition
```
Comment (dupuisf) [inline Mathlib/Order/Partition/Equipartition.lean:88]:
```suggestion
theorem bot_isEquipartition : (⊥ : Finpartition s).IsEquipartition :=
  Set.equitableOn_iff_exists_eq_eq_add_one.2 ⟨1, by simp⟩
#align finpartition.bot_is_equipartition Finpartition.botIsEquipartition

theorem top_isEquipartition [Decidable (s = ⊥)] : (⊤ : Finpartition s).IsEquipartition :=
  Set.Subsingleton.IsEquipartition (parts_top_subsingleton _)
#align finpartition.top_is_equipartition Finpartition.topIsEquipartition

theorem indiscrete_isEquipartition {hs : s ≠ ∅} : (indiscrete hs).IsEquipartition := by
  rw [IsEquipartition, indiscrete_parts, coe_singleton]
  exact Set.equitableOn_singleton s _
#align finpartition.indiscrete_is_equipartition Finpartition.indiscreteIsEquipartition
```

**Review by dupuisf — COMMENTED** [review]
Just a few naming changes, ortherwise LGTM!

bors d+
